US08981085B2
(R)-tert-Butyl 1-(5-bromo-3-(2-hydroxyacetamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (0.220 g, 0.470 mmol) was placed in DCM (3 mL) at room temperature. TFA (1 mL) was then added. The reaction was stirred at room temperature for 1 hour and concentrated to dryness. The residue was purified by reverse phase chromatography (Biotage SP4, C-18 25M+, 5-50 CH3CN/water). The resulting product was next dissolved in minimal DCM (with MeOH to aid solubility) and added to a stirred solution of 1M HCl in ether. The resulting solid was filtered, washed with ether and dried to give (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-hydroxyacetamide hydrochloride (0.045 g, 22% yield) as a solid. 1H NMR (400 MHz, D2O) δ 8.20 (s, 1H), 7.46 (s, 1H), 4.17 (s, 2H), 3.60-3.51 (m, 2H), 3.33-3.28 (m, 1H), 3.22-3.13 (m, 2H), 2.08-2.05 (m, 1H), 1.76-1.72 (m, 2H), 1.54-1.51 (m, 1H). LCMS (APCI+) m/z 368, 370 (M+H)+.

reactant | (R)-tert-Butyl 1-(5-bromo-3-(2-hydroxyacetamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 0.470 mmol, 0.220 g | BrC=1C(=C2C(=NC1)NC=C2NC(CO)=O)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C19H26BrN5O4
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-hydroxyacetamide hydrochloride | 0.045 g, 22% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(CO)=O | InChI=1S/C14H18BrN5O2.ClH/c15-9-4-17-14-12(10(5-18-14)19-11(22)7-21)13(9)20-3-1-2-8(16)6-20;/h4-5,8,21H,1-3,6-7,16H2,(H,17,18)(H,19,22);1H/t8-;/m1./s1
